US08242133B2
A mixture of 1.2 g of 2-amino-4-propylphenol, 0.98 g of isonicotinic acid and 32.8 g of polyphosphoric acid was stirred while heating at 190° C. for five hours. The mixture was cooled to room temperature and then poured into an ice-cooled aqueous solution of sodium hydroxide, followed by extraction with ethyl acetate three times. The combined organic layers were washed with water and a saturated sodium chloride solution, and dried over magnesium sulfate. Activated carbon was added thereto, which was filtered through Celite™. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.72 g of 5-propyl-2-(pyridin-4-yl)-benzoxazole (hereinafter, referred to as “active compound 1”).

reactant | 2-amino-4-propylphenol | 1.2 g | NC1=C(C=CC(=C1)CCC)O | C9H13NO
reactant | isonicotinic acid | 0.98 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-propyl-2-(pyridin-4-yl)-benzoxazole | 0.72 g | C(CC)C=1C=CC2=C(N=C(O2)C2=CC=NC=C2)C1 | C15H14N2O
